US05516774
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-5-fluoro-2-methylbenzamide
To a stirred solution of 500 mg of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 3 ml of methylene chloride, cooled to 0° C., under argon, is added 346 μl of triethylamine followed by the addition of 340 mg of 2-methyl-5-fluorobenzoyl chloride in 2 ml of methylene chloride. The cooling bath is removed and stirring continued for 18 hours. After cooling to 0° C., an additional 342 mg of 2-methyl-5-fluorobenzoyl chloride in 2 ml of methylene chloride is added. The cooling bath is removed and stirring continued for 18 hours. The volatiles are removed in Vacuo to a residue which is dissolved in 50 ml of methylene chloride and washed with 20 ml each of water, 2N citric acid, 1M sodium bicarbonate and brine. The organic layer is dried over Na2SO4 and passed through a pad of hydrous magnesium silicate. The filtrate is evaporated in vacuo to a residue which is crystallized from ethyl acetate-hexane to give 295 mg of the desired product as a white solid, m.p. 170°-180° C.

reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 500 mg | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
reactant | triethylamine | 346 μl | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-5-fluorobenzoyl chloride | 340 mg | CC1=C(C(=O)Cl)C=C(C=C1)F | C8H6ClFO
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)phenyl]-5-fluoro-2-methylbenzamide | 295 mg | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=CC(=C1)F)C)=O | C27H22FN3O2
